US08957069B2
1-(7-Ethoxy-2,4,6-trimethyl-2,3-dihydro-1-benzofuran-5-yl)-4-(4-methoxyphenyl)piperazine
By using 5-bromo-7-ethoxy-2,4,6-trimethyl-2,3-dihydro-1-benzofuran (570 mg, 2.0 mmol) synthesized in Reference example 84 and 1-(4-methoxyphenyl)piperazine (768 mg, 4.0 mmol), the reaction was carried out in the same manner as Example 21 to synthesize the title compound 385 mg (yield 48%).

reactant | 5-bromo-7-ethoxy-2,4,6-trimethyl-2,3-dihydro-1-benzofuran | 2.0 mmol, 570 mg | BrC=1C(=C(C2=C(CC(O2)C)C1C)OCC)C | C13H17BrO2
reactant | 1-(4-methoxyphenyl)piperazine | 4.0 mmol, 768 mg | COC1=CC=C(C=C1)N1CCNCC1 | C11H16N2O
product | 1-(7-Ethoxy-2,4,6-trimethyl-2,3-dihydro-1-benzofuran-5-yl)-4-(4-methoxyphenyl)piperazine | 385 mg, yield 48% | C(C)OC1=C(C(=C(C=2CC(OC21)C)C)N2CCN(CC2)C2=CC=C(C=C2)OC)C | C24H32N2O3
